US04030925
33. 1-(4-Chlorobenzoyl)-2-(4-aminophenyl)hydrazine hydrochloride
1-(4-Chlorobenzoyl)-2-(4-nitrophenyl)hydrazine (2.92g, 0.01 mole) and 5% palladium on barium sulfate (catalytic amount) were suspended in a mixture of ethanol (350 ml) and concentrated hydrochloric acid (5 ml) in a Parr shaker bottle. The reaction mixture was hydrogenated at room temperature until the theoretical amount of hydrogen had been taken up. The reaction mixture was filtered and the solvent was evaporated from the filtrate leaving a tan solid. Yield 2.9 g (99%), m.p. 209° C (dec.).

reactant | 1-(4-Chlorobenzoyl)-2-(4-nitrophenyl)hydrazine | 0.01 mole, 2.92g | ClC1=CC=C(C(=O)NNC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H10ClN3O3
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | palladium on barium sulfate | [Pd] | Pd
product | 1-(4-Chlorobenzoyl)-2-(4-aminophenyl)hydrazine hydrochloride | Cl.ClC1=CC=C(C(=O)NNC2=CC=C(C=C2)N)C=C1 | InChI=1S/C13H12ClN3O.ClH/c14-10-3-1-9(2-4-10)13(18)17-16-12-7-5-11(15)6-8-12;/h1-8,16H,15H2,(H,17,18);1H
